US06562836B1
To a solution of 4-phenylpyridine (15.5 g, 0.1 mol) in acetone (100 mL) was added 1,3-propane sultone (12.2 g, 0.1 mol) at room temperature. The mixture was then heated at reflux temperature overnight. The resultant suspension was cooled to room temperature. The solid was collected by filtration and washed with acetone. To a solution of the solid (31 g) in methanol (500 mL) was added sodium borohydride (10 g, 260 mmol) portionwise, and the mixture was stirred at room temperature for 2 h. Distilled water (50 mL) was added to destroy the excess of sodium borohydride. The mixture was diluted with methanol (200 ml), and neutralized with Amberlite IR-120 ion-exchange resin (H+ form, 300 g). A white precipitate was formed. The precipitate and the resin were removed by filtration and treated with distilled water (400 mL) at ˜100 ° C. The mixture was filtered and the residual resin was washed with hot distilled water (2×200 mL). The filtrates and washings were combined and concentrated to dryness. The residue was co-evaporated with methanol (3×200 mL), and then recrystallized from ethanol-water {8:2 (v/v)} to afford 4-phenyl-1-(3′-sulfopropyl)-1,2,3,6-tetrahydropyridine as white crystals (26 g, 93%). The 1H and 13C NMR spectra were in agreement with the structure.

reactant | 4-phenylpyridine | 0.1 mol, 15.5 g | C1(=CC=CC=C1)C1=CC=NC=C1 | C11H9N
reactant | 1,3-propane sultone | 0.1 mol, 12.2 g | C1COS(=O)(=O)C1 | C3H6O3S
reactant | sodium borohydride | 260 mmol, 10 g | [BH4-].[Na+]
reactant | water | 50 mL | O | H2O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | methanol | 500 mL | CO | CH4O
product | 4-phenyl-1-(3′-sulfopropyl)-1,2,3,6-tetrahydropyridine | 26 g, 93% | C1(=CC=CC=C1)C=1CCN(CC1)CCCS(=O)(=O)O | C14H19NO3S
